US05986131
970 mg of 2-ethynyl-benzyl alcohol were dissolved in 50 ml of diethyl ester. 1.9 ml of triethylamine was added, followed by dropwise addition of 0.9 ml of trimethylsilyl chloride. The reaction mixture was stirred at room temperature for 4 hours, poured onto ice/5% aqueous sodium bicarbonate and extracted with ether. The oily residue obtained after drying and evaporation of the solvent was distilled to give 1.3 g of 2-ethynylbenzyl trimethylsilyl ether as a colourless oil, b.p. 85-89° C./0.8 mm.

reactant | 2-ethynyl-benzyl alcohol | 970 mg | C(#C)C1=C(CO)C=CC=C1 | C9H8O
reactant | trimethylsilyl chloride | 0.9 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
product | 2-ethynylbenzyl trimethylsilyl ether | 1.3 g | C[Si](C)(C)OCC1=C(C=CC=C1)C#C | C12H16OSi
